US07501414B2
2,6-Diisopropyl-4-morpholin-4-yl-phenylamine
A mixture of N-(4-amino-2,6-diisopropyl-phenyl)-4-methyl-benzenesulfonamide (346 mg), bis-(2-bromoethyl)ether (151 μL), N,N-diisopropyl-ethylamine (0.53 mL) and N-methylpyrrolidine (1.0 mL) was heated to 180° C. for 20 minutes in a sealed microwave process vial. The mixture was diluted with ethyl acetate (20 mL), washed with brine (30 mL) and saturated aqueous potassium carbonate (30 mL) and dried over sodium sulfate. The organic phase was concentrated in vacuo and redissolved in a mixture of sulfuric acid (1.9 mL) and water (0.1 mL) and stirred at 40° C. for 3 hours. Ice (30 mL) and water (30 mL) were added and the mixture was basified with solid potassium carbonate. The mixture was extracted with ethyl acetate (3×20 mL) and the combined organic phases were dried over sodium sulfate and concentrated in vacuo to furnish 260 mg (99%) of the title compound as a white solid. 1H NMR (500 MHz, CDCl3): 1.26 (d, 12H), 2.95 (m, 2H), 3.06 (m, 4H), 3.49 (b, 2H), 3.87 (m, 4H), 6.69 (s, 2H).

reactant | N-(4-amino-2,6-diisopropyl-phenyl)-4-methyl-benzenesulfonamide | 346 mg | NC1=CC(=C(C(=C1)C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C)C(C)C | C19H26N2O2S
reactant | bis-(2-bromoethyl)ether | 151 μL | BrCCOCCBr | C4H8Br2O
reactant | N,N-diisopropyl-ethylamine | 0.53 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-methylpyrrolidine | 1.0 mL | CN1CCCC1 | C5H11N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2,6-Diisopropyl-4-morpholin-4-yl-phenylamine | 260 mg, 99% | C(C)(C)C1=C(C(=CC(=C1)N1CCOCC1)C(C)C)N | C16H26N2O
